US08686044B2
Preparation of 4-(perfluorobutan-2-yl)-2-(trifluoromethyl)aniline
According to the method of 1-1 of Example 1, a target compound was prepared from 2-(trifluoromethyl)aniline and nonafluoro-s-butyliodide under the light-shielding reaction condition.

reactant | 2-(trifluoromethyl)aniline | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | nonafluoro-s-butyliodide | FC(C(C(C(F)(F)F)(F)I)(F)F)(F)F | C4F9I
product | 4-(perfluorobutan-2-yl)-2-(trifluoromethyl)aniline | FC(C(C(C(F)(F)F)(F)F)(C1=CC(=C(N)C=C1)C(F)(F)F)F)(F)F | C11H5F12N
